US09212190B2
To a solution of tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate (200 mg, 0.45 mmol, 1.00 equiv) in DCM (10 mL) was added hydrogen chloride (conc., 0.5 mL) at 0° C. The resulting solution was stirred for 2 h at room temperature. The pH value of the solution was adjusted to 10 with saturated aqueous sodium bicarbonate, extracted with DCM (40 mL), dried over anhydrous sodium sulfate and evaporated under reduced pressure. The crude product was dissolved in DMF (5 mL) and DIEA (333 mg, 2.58 mmol, 6.00 equiv) and 1-bromo-2-methoxyethane (598 mg, 4.30 mmol, 10.00 equiv) were added. Stirring was continued for 2 h at 65° C. The mixture was diluted with DCM (50 mL), washed with brine (50 mL), dried over anhydrous sodium sulfate and concentrated under vacuum. The crude product (100 mg) was purified by preparative HPLC under the following conditions (Waters): column: SunFire Prep C18, 19*150 mm 5 um; mobile phase: water with NH4HCO3 and CH3CN (5.0% CH3CN up to 43.0% in 10 min, up to 95.0% in 2 min, down to 5.0% in 2 min); flow rate: 20 mL/min; UV detection at 254/220 nm. The product-containing fractions were collected and partially evaporated under reduced pressure to give the desired 2-[(3R)-12-([4-[(2-methoxyethyl)amino]cyclohexyl]oxy)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide (50 mg) as a white solid. MS: m/z 405 (M+H)+. 1H NMR (300 MHz, CDCl3): δ 8.52 (s, 1H), 5.32-5.23 (m, 2H), 3.91-3.83 (m, 1H), 3.52 (t, 2H, J=5.1 Hz), 3.38 (s, 3H), 3.19-2.98 (m, 3H), 2.91-2.71 (m, 3H), 2.69-2.55 (m, 1H), 2.39-2.21 (m, 4H), 2.11-2.01 (m, 2H), 1.72-1.23 (m, 4H).

reactant | tert-butyl N-(4-[[(3R)-3-(carbamoylmethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate | 0.45 mmol, 200 mg, 1.00 equiv | C(N)(=O)C[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)NC(OC(C)(C)C)=O | C22H30N4O4S
reactant | hydrogen chloride | 0.5 mL | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | DIEA | 2.58 mmol, 333 mg, 6.00 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-bromo-2-methoxyethane | 4.30 mmol, 598 mg, 10.00 equiv | BrCCOC | C3H7BrO
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-[(3R)-12-([4-[(2-methoxyethyl)amino]cyclohexyl]oxy)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-3-yl]acetamide | 50 mg | COCCNC1CCC(CC1)OC=1N=CN=C2SC=3CC[C@@H](C3C12)CC(=O)N | C20H28N4O3S
